US07750003B2
1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(phenylsulfanylmethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea
Thiophenol (0.029 mL) was dissolved in Acetonitrile (3 mL). DBU (0.043 mL) was then added to the solution and was allowed to stir at RT for 15 minutes. 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea (80 mg) was added to the reaction and stirred for 30 minutes. The reaction was concentrated in vacuo and the residue chromatographed on silica, eluting with 5% methanol in DCM, to give the desired material (62 mg) as a white solid, Mass Spectrum; M+H+ 512.

reactant | Thiophenol | 0.029 mL | C1(=CC=CC=C1)S | C6H6S
reactant | DBU | 0.043 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(methylsulfonyloxymethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 80 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)COS(=O)(=O)C)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C24H27N5O5S
solvent | Acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-[4-[4-[(3S)-3-Methylmorpholin-4-yl]-6-(phenylsulfanylmethyl)pyrimidin-2-yl]phenyl]-3-phenyl-urea | 62 mg | C[C@@H]1N(CCOC1)C1=NC(=NC(=C1)CSC1=CC=CC=C1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C29H29N5O2S
